US04584133
(B) Preparation of (3S,4R)-3-(1-hydroxyethyl)-1-allyloxycarbonylmethyl-4-sulfhydryl-azetidin-2-one
Add 500 mg of (3S,4R)-1-(allyloxycarbonylmethyl)-3-(1-hydroxyethyl)-4-(triphenylmethylthio)azetidin-2-one and 20 ml tetrahydrofuran to a 50 ml flask. Add zinc dust and 10% hydrochloric acid in small portions over 1 hour until all of the starting material is reacted. Recover the product by filtering off the excess zinc and removing the solvent to crystallize the title product.

reactant | (3S,4R)-1-(allyloxycarbonylmethyl)-3-(1-hydroxyethyl)-4-(triphenylmethylthio)azetidin-2-one | 500 mg | C(C=C)OC(=O)CN1C([C@@H]([C@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)O)=O | C29H29NO4S
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc | [Zn] | Zn
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (3S,4R)-3-(1-hydroxyethyl)-1-allyloxycarbonylmethyl-4-sulfhydryl-azetidin-2-one | OC(C)[C@H]1C(N([C@@H]1S)CC(=O)OCC=C)=O | C10H15NO4S
